US05110815
N-(Phenylmethoxy)-N-[5,6,7,8-tetrahydro-2-(phenylmethoxy)-5-quinolinyl]acetamide hydrochloride
Acetic anhydride (3.77 g) was added to a solution of N,N-dimethylaminopyridine (0.2 g), N,2-bis(phenylmethoxy)-5,6,7,8-tetrahydro-5-quinolinamine (12.1 g) and dichloromethane (170 ml) at room temperature. The mixture was stirred at room temperature for 48 hrs, diluted with dichloromethane, and extracted with saturated sodium bicarbonate solution. The combined extracts were washed with water, brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in methanol and acidified with 2-propanol/hydrochloric acid solution. The mixture was evaporated and the residue was recrystallized from ethanol/ethyl acetate to give 7.64 g (52%) of product, mp 125°-126° C.

reactant | Acetic anhydride | 3.77 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,2-bis(phenylmethoxy)-5,6,7,8-tetrahydro-5-quinolinamine | 12.1 g | C1(=CC=CC=C1)CONC1C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1 | C23H24N2O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | N-(Phenylmethoxy)-N-[5,6,7,8-tetrahydro-2-(phenylmethoxy)-5-quinolinyl]acetamide hydrochloride | 7.64 g, 52% | Cl.C1(=CC=CC=C1)CON(C(C)=O)C1C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1 | InChI=1S/C25H26N2O3.ClH/c1-19(28)27(30-18-21-11-6-3-7-12-21)24-14-8-13-23-22(24)15-16-25(26-23)29-17-20-9-4-2-5-10-20;/h2-7,9-12,15-16,24H,8,13-14,17-18H2,1H3;1H
